US20010053854A1
Sodium borohydride (420 mg) was added portionwise to a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-ethoxycarbonylamino-4-methylthiomethylpyrazole (854 mg) in methanol. The mixture was evaporated, diluted with dichloromethane and water, and the organic phase dried (magnesium sulfate) and evaporated to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-methylamino-4-methylthiomethylpyrazole.

reactant | Sodium borohydride | 420 mg | [BH4-].[Na+]
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-ethoxycarbonylamino-4-methylthiomethylpyrazole | 854 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC(=O)OCC)CSC)C#N | C16H13Cl2F3N4O2S
solvent | methanol | CO | CH4O
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-methylamino-4-methylthiomethylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC)CSC)C#N | C14H11Cl2F3N4S
